Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with h/o bladder cancer s/p cystoprostatectomy
with ileal loop conduit, gallbladder cancer sp resection, cyber 
knife and chemo, chief complaint of generalized weakness and a 
shaky LLE. Pt went for surveillance CT torso w/ contrast on 
___. Since then has felt progressively weaker, unable to 
walk without holding onto something which is an acute change. 
Left leg has felt "shaky" and he has gotten winded easily with 
exertion. He has noticed his urine looking darker and cloudier. 
Notes poor PO intake over last two days.

Denies fevers, chills, SOB, CP, HA, dizziness, back pain, bowel 
incontinence, diarrhea.

In the ED, initial vitals were:  99.7 99 137/47 20 100%. 
Urine/blood cx sent. UA dirty. Cr 2.2 (baseline 1.2-1.4). CT 
head neg. Received 2L IVF, 1g CTX. Lactate 3.4->1.7 with fluids.
   
Vitals prior to transfer 99.3 108 166/84 18 96% RA.  

On the floor, pt symptoms are unchanged from before. His urine 
looks lighter since getting IVF, sediment is at baseline.   
 
Past Medical History:
Coronary artery disease (cath ___: 1. Coronary angiography 
demonstrated a right dominant system. The LMCA 
was patent. The LAD revealed mid 40%, DIAG 50% and diffuse 
distal distal disease in the large septal. The LCx with no 
significant disease. The RCA with mid 20% stenosis.) 
Hypercholesterolemia
Glucose intolerance
Hypertension
Remote hx bladder ca s/p ileal conduit (recent surveillance CT 
torso neg).
S/p right carotid endarterectomy in ___
Gallbladder carcinoma s/p cholecystectomy ___ ((recent 
surveillance CT torso neg)
Glaucoma
Osteopenia
Recurrent UTIs and bacteremias: MRSA, Enterococcus, Pan 
sensitive E coli, Pan sensitive klebsiella

 
Social History:
___
Family History:
- Sister who developed breast cancer in her ___  
- Sister with thyroid disease  
- Brother with diabetes  
- Mother died in ___ of MI  
- Father died in ___ of Alzheimer's disease  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

Vitals: 99.5 150/96 130 26 96% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MM slightly dry, oropharynx clear  
Neck: supple, JVP not elevated, no LAD or bruits  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Tachy rate, with premature beats noted overlying regular 
rhythm, normal S1 + S2, aortic flow murmur, no rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly, surgical 
scars noted, ostomy is pink, draining cloudy yellow urine with 
mucous (per pt mucous is baseline). No CVA tenderness  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: R elbow with circumferential erythema in the shape of a 
tourniquet, erythematous patches noted in bilateral axillae with 
underlying hyperpigmentation, abd binder band is tight with 
liner excoriation and erythema on the left flank.  
Neuro: A+Ox3, CN II-XII intact, strength ___ in BUE/BLE, 
sensation intact to light touch throughout, straight leg raise 
neg, no spinal tenderness or stepoffs.
Rectal: Nml tone, scant non-bloody stool noted in rectal vault, 
no masses  

DISCHARGE PHYSICAL EXAM:

Vitals: 98.3 98.7 142/72 89 20 96% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD or bruits  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Tachy rate, with premature beats noted overlying regular 
rhythm, normal S1 + S2, aortic flow murmur, no rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly, surgical 
scars noted, ostomy is pink, draining cloudy yellow urine with 
mucous (per pt mucous is baseline). 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: R elbow with circumferential erythema in the shape of a 
tourniquet, erythematous patches noted in bilateral axillae with 
underlying hyperpigmentation, abd binder band is tight with 
liner excoriation and erythema on the left flank, improving.  
Neuro: A+Ox3, CN II-XII grossly intact, strength ___ in BUE/BLE, 
sensation intact to light touch throughout
Rectal: Nml tone, scant non-bloody stool noted in rectal vault, 
no masses  
 
 
Pertinent Results:
ADMISSION LABS:

___ 11:58AM   PLT COUNT-180
___ 11:58AM   NEUTS-73.4* LYMPHS-15.4* MONOS-10.6 EOS-0.1 
BASOS-0.5
___ 11:58AM   WBC-10.4# RBC-4.06* HGB-12.7* HCT-38.5* 
MCV-95 MCH-31.4 MCHC-33.1 RDW-13.0
___ 11:58AM   CALCIUM-8.9 PHOSPHATE-2.8 MAGNESIUM-2.0
___ 11:58AM   GLUCOSE-239* UREA N-40* CREAT-2.2* SODIUM-136 
POTASSIUM-5.5* CHLORIDE-98 TOTAL CO2-23 ANION GAP-21*
___ 12:18PM   LACTATE-3.4*
___ 12:18PM   ___ COMMENTS-GREEN TOP
___ 01:45PM URINE  AMORPH-MOD
___ 01:45PM URINE  RBC-1 WBC-17* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 01:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-7.5 
LEUK-MOD
___ 01:45PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 01:45PM URINE  UHOLD-HOLD
___ 01:45PM URINE  OSMOLAL-462
___ 01:45PM URINE  HOURS-RANDOM CREAT-81 SODIUM-44 
POTASSIUM-28 CHLORIDE-33
___ 04:14PM   LACTATE-1.6
___ 07:30PM   PLT COUNT-165
___ 07:30PM   WBC-9.8 RBC-3.95* HGB-12.3* HCT-37.5* MCV-95 
MCH-31.1 MCHC-32.7 RDW-13.1
___ 07:30PM   CALCIUM-8.5 PHOSPHATE-1.8* MAGNESIUM-1.8
___ 07:30PM   GLUCOSE-219* UREA N-31* CREAT-1.6* SODIUM-138 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-22 ANION GAP-15
___ 11:16PM   LACTATE-2.2*
___ 11:16PM   TYPE-MIX PO2-121* PCO2-34* PH-7.42 TOTAL 
CO2-23 BASE XS--1

DISCHARGE LABS:

___ 07:00AM BLOOD WBC-5.5 RBC-3.71* Hgb-11.4* Hct-35.7* 
MCV-96 MCH-30.8 MCHC-32.0 RDW-13.1 Plt ___
___ 07:00AM BLOOD Glucose-167* UreaN-21* Creat-1.4* Na-139 
K-4.1 Cl-104 HCO3-27 AnGap-12
___ 07:00AM BLOOD Calcium-8.8 Phos-2.6* Mg-2.2
___ 06:07PM BLOOD Lactate-1.7

MICROBIOLOGY:

___ 11:50 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 1:45 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

STUDIES:

Cardiovascular ReportECGStudy Date of ___  6:06:10 ___
 
Sinus tachycardia. Left bundle-branch block. Frequent 
ventricular premature
beats. Compared to the previous tracing the rate has increased.

CHEST TWO VIEWS, ___
 
FINDINGS:  PA and lateral views of the chest.  There are faint 
bibasilar
opacities, potentially due to atelectasis.  Superiorly, the 
lungs are clear. 
The cardiomediastinal silhouette is within normal limits, top 
normal in size. 
Atherosclerotic calcification is seen at the aortic arch.  No 
acute osseous
abnormality is identified.  Surgical clips seen in the right 
upper quadrant.
 
IMPRESSION:  No acute cardiopulmonary process.

CT head non-contrast ___:

FINDINGS:
 
There is no evidence of hemorrhage, edema, mass effect, or large 
vascular
territorial infarction.  Prominent ventricles and sulci suggest 
age related
global atrophy.  Minimal subcortical white matter hypodensities 
are
nonspecific but likely sequelae from chronic small vessel 
ischemic disease,
unchanged.  The basal cisterns appear patent and there is 
preservation of
gray-white matter differentiation.  
 
No fracture is identified.  There is moderate mucosal thickening 
of the
bilateral ethmoid air cells.  The patient is status post prior 
sinus surgery. 
The remaining visualized paranasal sinuses, mastoid air cells, 
and middle ear
cavities are clear.  The globes are unremarkable.  
 
IMPRESSION:
 
No evidence of acute intracranial process.  

 
Brief Hospital Course:
___ year old M w/ history of transitional cell CA sp 
cystoprostatectomy with ileal loop conduit ___, in 
remission), gallbladder carcinoma s/p ___, 
cyberknife and chemo (coompleted in 
___, recurrent UTIs and bacteremia, who presents with 
generalized weakness, unstable gait, found to have positive UA, 
likely consistent with UTI/urosepsis.  

#Urosepsis: Pt with h/o of recurrent UTIs/bacteremia from ileal 
conduit. Prior cx's include MRSA, Enterococcus, Pan sensitive E 
coli, Pan sensitive klebsiella oxytoca. He presented with 
generalized weakness, difficulty ambulating, a positive UA, 
relative leukocytosis, and ___ SIRS criteria. Cultures from 
blood/urine from this admission never grew out but this was 
presumed to be recurrent urosepsis. He clinically improved 
significantly with 6L IVF resuscitation empiric coverage with 
vancomycin/cefepime. Lactate trended down. There was no CVA 
tenderness to suggest perinephri abscess. He was transitioned to 
PO Bactrim to complete a 2 week course.

# SIRS criteria: Felt to likely be ___ recurrent urosepsis as 
above. There was no e/o pna on CXR. No diarrhea to suggest 
Cdiff. Skin findings were not c/w cellulitis. No neuro findings 
or back pain to suggest epidural abscess. No headache to suggest 
meningitis. Not on steroids so AI was felt to be unlikely. SIRS 
criteria resolved with IVF and antibiotics as above.

___: Cr 2.2 on presentation (baseline: 1.0-1.4). FeNa 0.88, 
likely representing pre-renal azotemia in the setting of poor PO 
intake and sepsis. There may have been a component of contrast 
induced nephropathy as received contrast dose on ___. Improved 
to 1.4 at discharge with IVF and supportive measures, with mml 
urine output. 

# Unstable gait: Head CT was neg. Neuro exam was non-focal, no 
back pain or spinal tenderness on exam, rectal tone was wnl. He 
had spinal imaging 2 days prior to admission which showed spinal 
DJD. Gait difficulties were felt to likely be ___ systemic 
illness and hypovolemia. Pt was able to ambulate without 
difficulty prior to discharge.

# Skin findings: Elbow and axillae erythema were c/w contact 
dermatitis. Excoriations were noted under the abdominal binder 
on his left flank. Given Triamcinalone to contact dermatitis 
areas and Bactroban to excoriations.

# CAD: Cath in ___ with diffuse but no critical dx. Denied 
CP/SOB, EKG was non-ischemic. It was unclear why pt stopped his 
statin. Held home metoprolol and lisinopril on admission given 
sepsis but restarted these at discharge. Continued home aspirin.

#HTN: BP stable during this admission. As above, held home 
metoprolol and lisinopril on admission given sepsis but 
restarted these at discharge.

#Glaucoma: Continued home eye drops. 
  
#Gallbladder Carcinoma: sp resection in ___, cyberknife and 
chemo (completed in ___. Stable with low ___ and no 
evidence of disease progression per recent CT.  

#Bladder Cancer: s/p bladder resection with ileal conduit in 
___. No e/o recurrence on CT recently.  

Transition issues:
- Outpt PCP ___ as above
- Complete a 2 week course of Bactrim through ___ 
- ___ pending blood cultures 
- Consider restarting statin as outpatient if patient is able to 
tolerate
 
Medications on Admission:
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
2. Lisinopril 10 mg PO DAILY 
3. Metoprolol Tartrate 12.5 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 
5. bimatoprost .03 % ophthalmic QHS 
6. Calcium Carbonate 500 mg PO TID 
7. Aspirin 81 mg PO DAILY 
8. Vitamin B Complex 1 CAP PO DAILY 
9. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
4. Calcium Carbonate 500 mg PO TID 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin B Complex 1 CAP PO DAILY 
7. bimatoprost .03 % ophthalmic QHS 
8. Lisinopril 10 mg PO DAILY 
9. Metoprolol Tartrate 12.5 mg PO BID 
10. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 11 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*22 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Sepsis
Possible recurrent urinary tract infection
Acute kidney injury

Secondary diagnoses:
S/p Ileal conduit
Hypertension
Glucose intolerance
H/o bladder cancer
H/o gallbladder cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted 
with an infection, possibly from your urinary tract, although we 
never identified a source. You were given IV fluids and 
antibiotics and started to feel better. We are discharging you 
to complete a 2 week course of antibiotics for this possible 
urinary tract infection.

Please keep all of your followup appointments.

Best wishes, 

Your ___ team
 
Followup Instructions:
___